US09227978B2
tert-Butyl 3-(4-(2-((4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetyl)piperazin-1-yl)azetidine-1-carboxylate
To a solution of 2-((4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetic acid (110 mg, 0.41 mmol) and tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate (118 mg, 0.49 mmol) in DMF (15 mL) at RT, BOP (217 mg, 0.49 mmol) and DIEA (159 mg, 1.23 mmol) were added and the resulting mixture was stirred at RT for 1 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford the desired product (192 mg, 95% yield).

reactant | 2-((4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetic acid | 0.41 mmol, 110 mg | ClC1=CC(=C(C=C1C1(CC1)C)NCC(=O)O)OC | C13H16ClNO3
reactant | tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate | 0.49 mmol, 118 mg | N1(CCNCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H23N3O2
reactant | BOP | 0.49 mmol, 217 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 1.23 mmol, 159 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(4-(2-((4-chloro-2-methoxy-5-(1-methylcyclopropyl)phenyl)amino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 192 mg, 95% yield | ClC1=CC(=C(C=C1C1(CC1)C)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)OC | C25H37ClN4O4
